US20010007873A1
E. 3-Cyclopropyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol
Prepared as in Example 1F using 2-(2-cyclopropyl4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine with ammonium formate and 20% Pd(OH)2, in 97% yield.

reactant | 2-(2-cyclopropyl4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | C1(CC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C27H26N2O
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 3-Cyclopropyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol | 97% yield | C1(CC1)C=1C=C(C=CC1C1=NC(=CC=C1)N1C(=CC=C1C)C)O | C20H20N2O
